US07482341B2
3-Chloro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine (0.07 g) and 3-chloro-benzenesulfonyl chloride (0.07 g) as a light yellow gum (0.059 g). MS (ESI−): 405.2 ([M−H]−).

reactant | 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine | 0.07 g | FC1=CC=C(COCC2=CC=CC(=N2)N)C=C1 | C13H13FN2O
reactant | 3-chloro-benzenesulfonyl chloride | 0.07 g | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 3-Chloro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-benzenesulfonamide | ClC=1C=C(C=CC1)S(=O)(=O)NC1=NC(=CC=C1)COCC1=CC=C(C=C1)F | C19H16ClFN2O3S
